US08609700B2
2,5-Dichloro-thiophene-3-carboxylic acid methyl-pyridin-3-yl-amide
394 mg (2.0 mmol, 1.0 equiv.) of 2,5-dichloro-thiophene-3-carboxylic acid were dissolved in 8 ml of dichloromethane and 254 mg (2.0 mmol, 1.0 equiv.) of oxalyl chloride were added dropwise. A catalytic amount of N,N-dimethylformamide (DMF) (5 drops) was added and the reaction mixture was stirred at room temperature for 4 h. Then, the mixture was added dropwise to a solution of 300 mg (3.0 mmol, 1.5 equiv) of triethylamine and 217 mg (2.0 mmol, 1.0 equiv.) of methyl-pyridin-3-yl-amine in 6 ml of dichloromethane and the reaction was stirred at room temperature overnight. Water was added and the mixture was extracted with dichloromethane. The combined organic phases were dried over Na2SO4, filtered and the solvent was removed under reduced pressure to yield 371 mg of the title compound (65%, 95% purity), [Mt]: 288.1.

reactant | 2,5-dichloro-thiophene-3-carboxylic acid | 2.0 mmol, 394 mg, 1.0 equiv. | ClC=1SC(=CC1C(=O)O)Cl | C5H2Cl2O2S
reactant | oxalyl chloride | 2.0 mmol, 254 mg, 1.0 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 3.0 mmol, 300 mg, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | methyl-pyridin-3-yl-amine | 2.0 mmol, 217 mg, 1.0 equiv. | CNC=1C=NC=CC1 | C6H8N2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 2,5-Dichloro-thiophene-3-carboxylic acid methyl-pyridin-3-yl-amide | 371 mg | CN(C(=O)C1=C(SC(=C1)Cl)Cl)C=1C=NC=CC1 | C11H8Cl2N2OS
